US06169102A
To a solution of 5-chloro-3-formylindole (5.00 g) in tetrahydrofuran (135 ml) was added sodium hydride (60% oil suspension, 3.53 g). The mixture was stirred for 20 minutes at room temperature. Carbobenzoxychloride (6.64 ml) was added to the mixture. After being stirred for 1 hour at room temperature, the whole was poured into ice water. The mixture was extracted with ethyl acetate. The extract was washed with brine and dried over magnesium sulfate. The solution was concentrated to give a residue, which was subjected to silica gel chromatography. Elution with hexane-ethyl acetate (5:1) provided 1-benzyloxycarbonyl-5-chloro-3-formylindol (5.74 g) as a crystal.

reactant | 5-chloro-3-formylindole | 5.00 g | ClC=1C=C2C(=CNC2=CC1)C=O | C9H6ClNO
reactant | sodium hydride | 3.53 g | [H-].[Na+]
reactant | Carbobenzoxychloride | 6.64 ml | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
solvent | tetrahydrofuran | 135 ml | O1CCCC1 | C4H8O
product | 1-benzyloxycarbonyl-5-chloro-3-formylindol | 5.74 g | C(C1=CC=CC=C1)OC(=O)N1C=C(C2=CC(=CC=C12)Cl)C=O | C17H12ClNO3
